US07279469B2
A mixture of 2-methoxy-4-nitro-phenol (2.50 g, 14.8 mmol), 1-bromo-2-chloro-ethane (1.35 mL, 16.3 mmol) and potassium carbonate (4.08 g, 29.6 mmol) in DMF (50 mL) in a sealed tube was heated at 90° C. for 18 h. The reaction was cooled and filtered, washing with ethyl acetate. The filtrate was washed with sodium bicarbonate, water (4 times) and brine, was dried (sodium sulfate) and evaporated. Purification by flash chromatography (SiO2) eluted with 35:65 ethyl acetate:hexanes provided 1-(2-chloro-ethoxy)-2-methoxy-4-nitro-benzene (1.93 g, 56% yield) as an off-white solid. 1H-NMR (DMSO-d6, 500 MHz) 7.89 (dd, 1H), 7.76 (d, 1H), 7.21 (d, 1H), 4.41 (t, 2H), 4.00 (t, 2H), 3.90 (s, 3H) ppm; HPLC (Method A) 3.781 min.

reactant | 2-methoxy-4-nitro-phenol | 14.8 mmol, 2.50 g | COC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO4
reactant | 1-bromo-2-chloro-ethane | 16.3 mmol, 1.35 mL | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 29.6 mmol, 4.08 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(2-chloro-ethoxy)-2-methoxy-4-nitro-benzene | 1.93 g, 56% yield | ClCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10ClNO4
